US08097759B2
5-Bromo-2-hydroxy-N-(5-phenylpyrazol-3-yl)benzamide (Compound No. 36)
Using 5-bromosalicylic acid and 3-amino-5-phenylpyrazole as the raw materials, the same operation as the example 16 gave the title compound.

reactant | 5-bromosalicylic acid | BrC1=CC=C(C(C(=O)O)=C1)O | C7H5BrO3
reactant | 3-amino-5-phenylpyrazole | NC1=NNC(=C1)C1=CC=CC=C1 | C9H9N3
product | 5-Bromo-2-hydroxy-N-(5-phenylpyrazol-3-yl)benzamide | Yield: 9.2% | BrC=1C=CC(=C(C(=O)NC2=NNC(=C2)C2=CC=CC=C2)C1)O | C16H12BrN3O2
